US08372855B2
3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline
16.0 g 3-benzyl-3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline in 150 ml glacial acetic acid are hydrogenated in the presence of 1.6 g palladium on activated charcoal (10% Pd) at 60° C. at a hydrogen pressure of 50 psi. The catalyst is filtered off and the filtrate is evaporated down, combined with toluene and evaporated down again. The residue is mixed with water and made slightly alkaline with saturated sodium hydrogen carbonate solution. The precipitate is suction filtered and dried.

reactant | 3-benzyl-3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline | 16.0 g | C(C1=CC=CC=C1)N1C=NC2=CC(=C(C=C2C1=O)OC1CCC2(OCCO2)CC1)OC | C24H26N2O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on activated charcoal | 1.6 g | [Pd] | Pd
product | 3,4-dihydro-4-oxo-6-(1,4-dioxa-spiro[4.5]decan-8-yl-oxy)-7-methoxy-quinazoline | O=C1NC=NC2=CC(=C(C=C12)OC1CCC2(OCCO2)CC1)OC | C17H20N2O5
